US04433152
A mixture of 10.9 g of bis[p-(α,α-dimethylbenzyl)phenyl]sulfite prepared from p-[α,α-dimethylbenzyl)phenol and thionyl chloride, 4 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride, 20 ml of dry dimethylformamide and 8 ml of dry pyridine was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure to give an oily substance which was then treated with ethyl acetate to give powder. The powder was recrystallized from isopropanol-ether to obtain 5.3 g (yield: 68.8%) of p-(α,α-dimethylbenzyl)phenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 166° to 168° C.

reactant | bis[p-(α,α-dimethylbenzyl)phenyl]sulfite | 10.9 g | CC(C1=CC=CC=C1)(C)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C)C | C30H30O3S
reactant | p-[α,α-dimethylbenzyl)phenol | CC(C1=CC=CC=C1)(C)C1=CC=C(C=C1)O | C15H16O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-(α,α-dimethylbenzyl)phenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 5.3 g, yield: 68.8% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C)C | InChI=1S/C22H27N3O2.ClH/c1-22(2,17-6-4-3-5-7-17)18-8-10-19(11-9-18)27-20(26)16-12-14-25(15-13-16)21(23)24;/h3-11,16H,12-15H2,1-2H3,(H3,23,24);1H
